US06455550B1
Preparation of 1-[2-[[(1,1-Dimethylethoxy)carbonyl]amino]ethyl]cyclopentyl Carboxylic Acid Methyl Ester
To a solution of 1-(2-azidoethyl)cyclopentane carboxylic acid methyl ester (5.00 g, 25.4 mmol) in ethyl acetate (100 mL was added di-tert-butyl-dicarbonate (55.4 g, 254 mmol) and 10% Pd on carbon (1.5 g). The reaction mixture was shaken for 3 h under hydrogen gas (50 psi) on a Parr shaker apparatus. The reaction mixture was filtered through a pad of celite and the pad was washed with ethyl acetate (2×150 mL). The combined organic phase was transferred to a round bottom flask and concentrated in vacuo. Purification by flash column chromatography, using hexane-ethyl acetate (9:1), afforded 5.30 g (76%) as a light yellow oil. HR MS (C14H25NO4): Calcd: 272.1862. Obs mass, 272.1856 (M+H).

reactant | 1-(2-azidoethyl)cyclopentane carboxylic acid methyl ester | 25.4 mmol, 5.00 g | COC(=O)C1(CCCC1)CCN=[N+]=[N-] | C9H15N3O2
reactant | di-tert-butyl-dicarbonate | 254 mmol, 55.4 g | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
catalyst | Pd on carbon | 1.5 g | [Pd] | Pd
product | 1-[2-[[(1,1-Dimethylethoxy)carbonyl]amino]ethyl]cyclopentyl Carboxylic Acid Methyl Ester | COC(=O)C1(CCCC1)CCNC(=O)OC(C)(C)C | C14H25NO4
